*  Copyright: INFINEON Technologies AG / PMM APS SE SL
*  ***************************************************************
*  Models provided by INFINEON are not warranted by INFINEON as  *
*  fully representing all of the specifications and operating    *
*  characteristics of the semiconductor product to which the     *
*  model relates. The model describes the characteristics of a   *
*  typical device.                                               *
*  In all cases, the current data sheet information for a given  *
*  device is the final design guideline and the only actual      *
*  performance garantee.                                         *
*  Altough models can be a useful tool in evaluating device      *
*  performance, they cannot model exact device performance under *
*  all conditions, nor are they intended to replace bread-       *
*  boarding for final verification. INFINEON reserves the right  *
*  to change models without prior notice.                        *
*                                                                *
*                                                                *
*                                                                *
*  content:   IDH02G65C5_L3                                      *
*             IDH03G65C5_L3                                      *
*             IDH04G65C5_L3                                      *
*             IDH05G65C5_L3                                      *
*             IDH06G65C5_L3                                      *
*             IDH08G65C5_L3                                      *
*             IDH09G65C5_L3                                      *
*             IDH10G65C5_L3                                      *
*             IDH12G65C5_L3                                      *
*             IDH16G65C5_L3                                      *
*             IDH20G65C5_L3                                      *
*                                                                *
*                                                                *
*                                                                *
*  ------------------------------------------------------------  *
*  release October/11/2012                                       *
*  This level 3 model requires a model of the thermal path       *
*  to calculate the device temperature.                          *
*  Values of the internal thermal parameters are                 *
*  already included. The thermal parameters of an external heat- *
*  sink may be included as a physical correct thermal RC network *
*  connected to the node TCASE  and referenced to thermal ground *
*                                                                *
*  the global parameter tnom has no influence                    *
*                                                                *
*                                                                *
*  ***************************************************************

.SUBCKT IDH02G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 1.705E-01
+ fpar02 1.451E-01
+ fpar03 3.156E-01
+ fpar04 4.016E-01
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 7.178E-01
RTHD1 td1 td2 1.167
RTHD2 td2 TCASE 6.663E-01
CTHD0 TJ 0 2.947E-05
CTHD1 td1 0 2.025E-04
CTHD2 td2 0 4.036E-03
.ENDS
*  ***************************************************************
.SUBCKT IDH03G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 2.604E-01
+ fpar02 2.134E-01
+ fpar03 4.738E-01
+ fpar04 5.752E-01
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 5.471E-01
RTHD1 td1 td2 1.016
RTHD2 td2 TCASE 6.210E-01
CTHD0 TJ 0 4.381E-05
CTHD1 td1 0 2.565E-04
CTHD2 td2 0 4.486E-03
.ENDS
*  ***************************************************************
.SUBCKT IDH04G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 3.501E-01
+ fpar02 2.724E-01
+ fpar03 6.225E-01
+ fpar04 7.379E-01
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 4.303E-01
RTHD1 td1 td2 8.889E-01
RTHD2 td2 TCASE 5.717E-01
CTHD0 TJ 0 5.822E-05
CTHD1 td1 0 3.177E-04
CTHD2 td2 0 5.078E-03
.ENDS
*  ***************************************************************
.SUBCKT IDH05G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 4.357E-01
+ fpar02 3.370E-01
+ fpar03 7.726E-01
+ fpar04 9.006E-01
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 3.466E-01
RTHD1 td1 td2 7.858E-01
RTHD2 td2 TCASE 5.274E-01
CTHD0 TJ 0 7.310E-05
CTHD1 td1 0 3.904E-04
CTHD2 td2 0 5.694E-03
.ENDS
*  ***************************************************************
.SUBCKT IDH06G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 5.348E-01
+ fpar02 4.042E-01
+ fpar03 9.390E-01
+ fpar04 1.080
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 2.803E-01
RTHD1 td1 td2 6.951E-01
RTHD2 td2 TCASE 4.855E-01
CTHD0 TJ 0 9.000E-05
CTHD1 td1 0 4.811E-04
CTHD2 td2 0 6.376E-03
.ENDS
*  ***************************************************************
.SUBCKT IDH08G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 7.213E-01
+ fpar02 5.309E-01
+ fpar03 1.252
+ fpar04 1.414
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 1.996E-01
RTHD1 td1 td2 5.695E-01
RTHD2 td2 TCASE 4.235E-01
CTHD0 TJ 0 1.230E-04
CTHD1 td1 0 6.748E-04
CTHD2 td2 0 7.634E-03
.ENDS
*  ***************************************************************
.SUBCKT IDH09G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 8.030E-01
+ fpar02 5.871E-01
+ fpar03 1.390
+ fpar04 1.560
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 1.754E-01
RTHD1 td1 td2 5.270E-01
RTHD2 td2 TCASE 4.014E-01
CTHD0 TJ 0 1.379E-04
CTHD1 td1 0 7.681E-04
CTHD2 td2 0 8.174E-03
.ENDS
*  ***************************************************************
.SUBCKT IDH10G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 8.934E-01
+ fpar02 6.535E-01
+ fpar03 1.547
+ fpar04 1.726
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 1.532E-01
RTHD1 td1 td2 4.853E-01
RTHD2 td2 TCASE 3.793E-01
CTHD0 TJ 0 1.552E-04
CTHD1 td1 0 8.792E-04
CTHD2 td2 0 8.779E-03
.ENDS
*  ***************************************************************
.SUBCKT IDH12G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 1.089
+ fpar02 7.849E-01
+ fpar03 1.874
+ fpar04 2.071
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 1.198E-01
RTHD1 td1 td2 4.156E-01
RTHD2 td2 TCASE 3.411E-01
CTHD0 TJ 0 1.919E-04
CTHD1 td1 0 1.126E-03
CTHD2 td2 0 9.993E-03
.ENDS
*  ***************************************************************
.SUBCKT IDH16G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 1.439
+ fpar02 1.023
+ fpar03 2.462
+ fpar04 2.686
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 8.464E-02
RTHD1 td1 td2 3.274E-01
RTHD2 td2 TCASE 2.908E-01
CTHD0 TJ 0 2.594E-04
CTHD1 td1 0 1.610E-03
CTHD2 td2 0 1.202E-02
.ENDS
*  ***************************************************************
.SUBCKT IDH20G65C5_L3 ANODE KATODE TCASE TJ
LA ANODE AL 8n
RLA ANODE AL 100.000
VIA AL ANO 0
LK KAT KATODE 3n
RLK KAT KATODE 100.000
XSD ANO KAT TJ Pow SCS_G5_650V_v1a
+ PARAMS:
+ fpar01 1.823
+ fpar02 1.262
+ fpar03 3.085
+ fpar04 3.336
GPOW 0 TJ VALUE = {IF(time > 0,LIMIT(ABS(V(Pow,0)),0,1e10),0)}
RGPOW TJ 0 1meg
RTHD0 TJ td1 6.461E-02
RTHD1 td1 td2 2.629E-01
RTHD2 td2 TCASE 2.530E-01
CTHD0 TJ 0 3.323E-04
CTHD1 td1 0 2.168E-03
CTHD2 td2 0 1.397E-02
.ENDS
*  ***************************************************************
.SUBCKT SCS_G5_650V_v1a a k Tj Pow
+ PARAMS:
+ fpar01 = {100}
+ fpar02 = {100}
+ fpar03 = {100}
+ fpar04 = {100}
X$sd a k1 Tj fpar37 fpar39 PARAMS: fpar05 = {fpar01} fpar07 = {fpar03}
X$pn a k1 Tj fpar38 fpar40 PARAMS: fpar06 = {fpar02} fpar07 = {fpar03}
Vcurr k1 k DC = 0
X$cap a k fpar41 fpar43 PARAMS: fpar08 = {fpar04} fpar07 = {fpar03}
G_Pow 0 Pow VALUE = {LIMIT(abs(V(fpar37,0) + V(fpar38,0) + V(fpar41,0)),0,100k) }
R_Pow 0 Pow 1
.ENDS
.SUBCKT fpar43 a k Pow PARAMS: fpar08 = {100} fpar07 = {100}
.PARAM fpar30 = {fpar08/100}
+ fpar31 = {7.629e-2}
+ fpar32 = {fpar31 / fpar07}
+ fpar33 = {1E12}
.PARAM fa_0 = {2.225}
+ fb_0 = {4.581}
+ fc_0 = {7.299}
+ fd_0 = {7.485}
+ pb = {1.553e-2}
+ pc = {1.028e-1}
+ pd = {5.821e-1}
.PARAM fa = {fa_0 * fpar30 * 1E-9}
+ fb = {fb_0 * fpar30 * 1E-9}
+ fc = {fc_0 * fpar30 * 1E-9}
+ fd = {fd_0 * fpar30 * 1E-9}
C_a a k1 {fa}
Rp_a a k1 {fpar33}
C_b a k_b {fb}
Rp_b a k_b {fpar33}
E_b k_b k1 VALUE {if(V(a,k1)<2, V(a,k1)-(exp(pb*V(a,k1))-1)/pb ,0)}
C_c a k_c {fc}
Rp_c a k_c {fpar33}
E_c k_c k1 VALUE {if(V(a,k1)<2, V(a,k1)-(exp(pc*V(a,k1))-1)/pc ,0)}
C_d a k_d {fd}
Rp_d a k_d {fpar33}
E_d k_d k1 VALUE {if(V(a,k1)<2, V(a,k1)-(exp(pd*V(a,k1))-1)/pd ,0)}
Rser k k1 {fpar32}
Vcurr k1 k DC=0
G_Pow 0 Pow VALUE = {LIMIT(abs(I(Vcurr)*(V(k,k1))),0,100k) }
R_Pow 0 Pow 1
.ENDS
.SUBCKT fpar42 a k pow PARAMS: fpar08 = {100} fpar07 = {100}
.PARAM fpar30 = {fpar08/100}
+ fpar34 = {18.949 * fpar30 * 1E-9}
+ fpar35 = {2.817}
+ fpar31 = {7.629e-2}
+ fpar32 = {fpar31 / fpar07}
+ fpar33 = {1E12}
+ fpar36 = {-280}
C_b k1 k_b {fpar34}
E_b a k_b VALUE {if(V(a,k1) < fpar36,
+ V(a,k1) + (2*(sqrt(fpar35*(fpar35 - fpar36)) - fpar35) + fpar35/sqrt(fpar35*(fpar35-fpar36)) * (fpar36-V(a,k1))) ,
+ if(V(a,k1)<=fpar35, V(a,k1) + (2*(sqrt(fpar35*(fpar35 - V(a,k1))) - fpar35)) ,
+ 0))}
R_p k1 k_b {fpar33}
R_s k2 k1 {fpar32}
VICap k2 k 0
G_Pow 0 pow VALUE = {LIMIT(abs(I(VICap)*(V(k2,k1))),0,100k) }
R_Pow 0 pow 1
.ENDS
.SUBCKT fpar40 a k Tj Pow PARAMS: fpar06 = {100} fpar07 = {100}
.PARAM fpar23 = {2.600e-37}
+ fpar24 = {1.270}
+ fpar25 = {2.700}
+ fpar16 = {8.617E-5}
+ fpar26 = {exp(-fpar25/(fpar16*300))}
+ fpar27 = {3.000e-2}
+ fpar32 = {fpar27 / fpar07}
+ fpar28 = {2.900}
+ fpar29 = {7.500e-3}
.FUNC RS(T) {fpar32 * (-0.2 + 1.2*(TK(T)/300))}
.FUNC TK(T) {T + 273}
.FUNC I0(T) {fpar23/fpar26*exp(-fpar25/(fpar16*TK(T)))}
.FUNC Vpn(V,T) {V-(fpar28-fpar29*T)}
.FUNC Ipn(I,V,T) {I0(T)*(exp((Vpn(V,T)-I*RS(T))/(fpar24*fpar16*TK(T)))-1)*fpar06}
GPN a k1 Value = {if (V(a,k)>0, Ipn(I(Vcurr),V(a,k),V(Tj,0)), 0)}
Rshunt a k 1E15
Vcurr k1 k DC=0
G_Pow 0 Pow VALUE = {LIMIT(abs(I(Vcurr)*(V(a,k))),0,100k) }
R_Pow 0 Pow 1
.ENDS
.SUBCKT fpar39 a k Tj Pow PARAMS: fpar05 = {100} fpar07 = {100}
.PARAM fpar09 = {0.170}
+ PhiB0 = {1.159}
+ fpar11 = {1.033}
+ fpar12 = {7.629e-2}
+ fpar13 = {2.317}
+ fpar14 = {-3.660}
+ fpar15 = {2.350}
+ fpar16 = {8.617E-5}
.PARAM Astern = {fpar09 * fpar05}
+ fpar32 = {fpar12 / fpar07}
.FUNC TK(T) {T + 273}
.FUNC PhiB(V) {if(V<0, PhiB0-sqrt(1.5E-8*abs(V)/4.5/1E-4), PhiB0)}
.FUNC I0F(V,T) {Astern * TK(T)*TK(T) * exp(-PhiB(V)/TK(T)/fpar16)}
.FUNC Rs(T) {fpar32 * (fpar13 + fpar14*(TK(T)/300) + fpar15*(TK(T)/300)^2)}
.FUNC ISDF(I,V,T) {I0F(V,T) * (exp((V-Rs(T)*I)/fpar11/TK(T)/fpar16)-1)}
.PARAM fpar17 = {-1.250e+1}
+ fpar18 = {6.300e-3}
+ fpar19 = {1.200e-4}
+ fpar20 = {-2.900e-2}
+ fpar21 = {1.240e-5}
+ fpar22 = {3.460e-7}
.FUNC I0S(T) {10^(fpar17 + fpar18*T + fpar19*T^2)*fpar05/100}
.FUNC V0S(T) {(fpar20 + fpar21*T + fpar22*T^2)}
.FUNC ISDS(V,T) {-I0S(T)*exp(V*V0S(T))}
GSD a k1 Value = {IF(V(a,k)>=0,ISDF(I(Vcurr),V(a,k),V(Tj,0)), ISDF(I(Vcurr),V(a,k),V(Tj,0))+ISDS(V(a,k),V(Tj,0)))}
Vcurr k1 k DC=0
G_Pow 0 Pow VALUE={LIMIT(abs(I(Vcurr)*(V(a,k))),0,100k) }
R_Pow 0 Pow 1
.ENDS
